US05804532
3-Chloroperoxybenzoic acid (2.0 g) was added to a solution of 5-cyclopropyl-4-[3,4-dichloro-2-(methylsulphenyl)benzoyl]isoxazole (1.86 g) in dichloromethane while maintaining the temperature around -15° C. The mixture was stirred at -15° C. for 1 hour and at room temperature for 1 hour. It was recooled to -15° C. and filtered. The filtrate was evaporated to dryness and the residue was purified by dry column flash chromatography eluted with a mixture of ethyl acetate and n-hexane. The product was recrystallized from a mixture of ethyl acetate and n-hexane to give 5-cyclopropyl-4-[3,4-dichloro-2-(methylsulphinyl)benzoyl]isoxazole (0.3 g) as a white solid, m.p. 110°-112° C.

reactant | 3-Chloroperoxybenzoic acid | 2.0 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 5-cyclopropyl-4-[3,4-dichloro-2-(methylsulphenyl)benzoyl]isoxazole | 1.86 g | C1(CC1)C1=C(C=NO1)C(C1=C(C(=C(C=C1)Cl)Cl)SC)=O | C14H11Cl2NO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-cyclopropyl-4-[3,4-dichloro-2-(methylsulphinyl)benzoyl]isoxazole | 0.3 g | C1(CC1)C1=C(C=NO1)C(C1=C(C(=C(C=C1)Cl)Cl)S(=O)C)=O | C14H11Cl2NO3S
